data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-Cl_1-C_2-N(C)C_3-Oc2ccccc2_4-c2ccccc2_5-CC_6-F_7-C(F)(F)F_8-[N+](=O)[O-]_9-Cl","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(C)c(N(C)C)c(Oc2ccccc2)c(c2ccccc2)c(CC)c1O","c1(F)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c(Cl)c1I"],"products_smiles": ["c1(C)c(N(C)C)c(Oc2ccccc2)c(c2ccccc2)c(CC)c1Oc2c(F)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c2(Cl)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C)c(N(C)C)c(Oc2ccccc2)c(c2ccccc2)c(CC)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(F)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c(Cl)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(F)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c(Cl)c2[Cu](I)Oc1c(C)c(N(C)C)c(Oc2ccccc2)c(c2ccccc2)c1(CC)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C)c(N(C)C)c(Oc2ccccc2)c(c2ccccc2)c(CC)c1Oc2c(F)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c2(Cl)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-203_1-c1ccsc1_2-c1cnccc1","level": "medium","name": "Nef Reaction","reactants_smiles": ["C(c1ccsc1)(c1cnccc1)([N+](=O)[O-])"],"products_smiles": ["O=C(c1ccsc1)(c1cnccc1)"],"conditions": "H3O+","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)(c1cnccc1)=N([O-])=O","step_weight": 0,"rationale": "Protonation of the nitro group oxygen increases electrophilicity of nitrogen, facilitating tautomerization to the nitronic acid form under acidic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)(c1cnccc1)=[N+]([O-])O","step_weight": 0,"rationale": "Further proton transfer stabilizes the nitronic acid tautomer by delocalizing positive charge onto nitrogen, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)(c1cnccc1)=[N+](O)O","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen enhances the leaving ability of water in later steps and increases the electrophilicity of the nitrogen center."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccsc1)(c1cnccc1)([NH+](O)O)[OH2+]","step_weight": 0,"rationale": "Water, abundant in acidic medium, attacks the electrophilic nitrogen-carbon center, driven by the positive charge and resonance stabilization of the intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)(c1cnccc1)([NH+](O)O)[OH]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to the nitronic hydroxyl group prepares for elimination by generating a better leaving group."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[OH+]=C(c1ccsc1)(c1cnccc1)","step_weight": 0,"rationale": "Elimination of the protonated hydroxylamine fragment occurs because water is a good leaving group under acidic conditions, forming an oxonium ion intermediate."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccsc1)(c1cnccc1)","step_weight": 0,"rationale": "Loss of a proton from the oxonium ion yields the neutral carbonyl product, driven by the thermodynamic stability of the C=O bond."}],"description": "Under acidic conditions, the nitro group of the nitroalkane is sequentially protonated and rearranged to form a nitronic acid, which undergoes hydration and elimination steps. Proton transfers and good leaving group formation drive the conversion to the corresponding carbonyl compound."}
